US04162246
Ethylene glycol bis[2-hydroxy-3-(7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]ether (Compound No. 165)
A mixture of 7.7 g of 7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione, 2.5 g of ethylene glycol bis(2,3-epoxypropyl)ether and 0.1 g of potassium hydroxide in 80 ml of methanol was refluxed for 11 hours. Insoluble materials were then filtered off and the filtrate was washed with hot methanol. The solution was dried and then the solvent evaporated off. The residue was recrystallised from N,N-dimethylformamide, giving the desired compound in the form of white crystals, melting at 262°-264° C.

reactant | 7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 7.7 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1)(C)C)C | C11H19N3O2
reactant | ethylene glycol bis(2,3-epoxypropyl)ether | 2.5 g | O1C(COCCOCC2CO2)C1 | C8H14O4
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
solvent | methanol | 80 ml | CO | CH4O
product | Ethylene glycol bis[2-hydroxy-3-(7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]ether | OC(COCCOCC(CN1C(NC2(C1=O)CC(NC(C2)(C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(NC(C1)(C)C)(C)C)=O | C30H52N6O8
